US05374641
A portion of 53 mg of N-[2-(4-hydroxyphenyl)-3-(3-pyridyl)propyl]-4-chlorobenzenesulfonamide and 78 mg of triethylamine were dissolved in 8 ml of tetrahydrofuran, followed by addition of 25 mg of ethyl chlorocarbonate dissolved in 1 ml of tetrahydrofuran, and stirred at room temperature for 10 minutes. The crystalline deposited was filtered, and the filtrate was then concentrated under reduced pressure. The residue was subjected to chromatography on a silica gel column, and from a fraction eluted with methanol-methylene chloride (5:95 v/v) was obtained 53 mg of N-[2-(4-ethoxycarbonyloxyphenyl)-3-(3-pyridyl)}propyl]-4-chlorobenzenesulfonamide. The spectrometric data supports the structure of [32] as follows.

reactant | N-[2-(4-hydroxyphenyl)-3-(3-pyridyl)propyl]-4-chlorobenzenesulfonamide | 53 mg | OC1=CC=C(C=C1)C(CNS(=O)(=O)C1=CC=C(C=C1)Cl)CC=1C=NC=CC1 | C20H19ClN2O3S
reactant | triethylamine | 78 mg | C(C)N(CC)CC | C6H15N
reactant | ethyl chlorocarbonate | 25 mg | C(OCC)(=O)Cl | C3H5ClO2
solvent | tetrahydrofuran | 8 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
product | 4-chlorobenzenesulfonamide | ClC1=CC=C(C=C1)S(=O)(=O)N | C6H6ClNO2S
